US08236968B2
1.1 Preparation of diethyl[5-(diethoxyphosphorylmethyl)-2′,5′-di-methylbiphenyl-2-ylmethyl]phosphonate
50 g (180 mmol) of 2′,5′-bis-chloromethyl-2,5-dimethylbiphenyl are heated at 160° C. in 63 ml (366 mmol) of triethyl phosphite until the evolution of gas is complete. The residue which remains is employed in the subsequent reaction without further purification.

reactant | 2′,5′-bis-chloromethyl-2,5-dimethylbiphenyl | 180 mmol, 50 g | ClCC1=C(C=C(C=C1)CCl)C1=C(C=CC(=C1)C)C | C16H16Cl2
reactant | triethyl phosphite | 366 mmol, 63 ml | P(OCC)(OCC)OCC | C6H15O3P
product | diethyl[5-(diethoxyphosphorylmethyl)-2′,5′-di-methylbiphenyl-2-ylmethyl]phosphonate | C(C)OP(OCC)(=O)CC1=C(C=C(C=C1)CP(=O)(OCC)OCC)C1=C(C=CC(=C1)C)C | C24H36O6P2
